US08008295B2
Step B: 5-Bromo-3-({methyl[(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)methyl]amino}sulfonyl)-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride with 5-[(methylamino)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one, (prepared using the method of T. Ladduwahetty et al., J. Med. Chem 1996, 39, 2907-2914) the title compound was obtained. Proton NMR for the product was consistent with the titled compound. HRMS (ES) exact mass calculated for C13H14BrN6O4S (M+H+): 428.9975. Found 428.9974.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | methylamine hydrochloride | Cl.CN
reactant | 5-[(methylamino)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | CNCC=1NC(NN1)=O | C4H8N4O
product | 5-Bromo-3-({methyl[(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)methyl]amino}sulfonyl)-1H-indole-2-carboxamide | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N(CC1=NNC(N1)=O)C | C13H13BrN6O4S
